US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-PYRIDIN-2-YLETHYL)AMIDE
Following the procedure of Example 28, making variations only as required to use 2-pyridin-2-ylethylamine in place of 2-aminopyridine to react with 6-[4-(2-trifluoromethyl-benzoyl)piperazin-1-yl]pyridazine-3-carbonyl chloride, the title compound was obtained as a white powder (30%). m.p. 151-154° C. 1H NMR (300 MHz, DMSO-d6) δ 9.07, 8.78, 8.43, 7.99-7.61, 7.52, 7.34, 3.79-3.60, 3.35-3.14. MS (ES+) m/z 485.3 (M+1).

reactant | 2-pyridin-2-ylethylamine | N1=C(C=CC=C1)CCN | C7H10N2
reactant | 6-[4-(2-trifluoromethyl-benzoyl)piperazin-1-yl]pyridazine-3-carbonyl chloride | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)C(=O)Cl)C=CC=C1)(F)F | C17H14ClF3N4O2
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-PYRIDIN-2-YLETHYL)AMIDE | N1=C(C=CC=C1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H23F3N6O2
